US04734123
N-(2,6-dichlorophenyl)-7-methoxy-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide
A sodium methoxide-methanol solution was made by dissolving 0.3 g (13 mg-atom) of sodium metal into 20 ml of absolute methanol. To this solution was added 1.0 g (2.5 mmol) of N-(2,6-dichlorophenyl)-7-chloro-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide. A mild exotherm ensued and the reaction was complete within 10 min as determined by TLC (20 percent methanol-methylene chloride). The solution was acidified with 6N aqueous HCl and the resulting white solid collected. Recovered 0.9 g (93 percent) of a white powder; mp 214°-215° C.

reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | sodium | 0.3 g | [Na] | Na
reactant | N-(2,6-dichlorophenyl)-7-chloro-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide | 2.5 mmol, 1.0 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2Cl)C)=N1 | C12H8Cl3N5O2S
reactant | HCl | 6N | Cl | ClH
solvent | methanol methylene chloride | CO.C(Cl)Cl
solvent | methanol | 20 ml | CO | CH4O
product | N-(2,6-dichlorophenyl)-7-methoxy-5-methyl-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(N=C(C=C2OC)C)=N1 | C13H11Cl2N5O3S
